US06197729B1
c) 4-(1-hydroxy-2,2,2-trifluoroethyl)phenol
At 50° C. and a hydrogen pressure of 5 bar, 65.7 g (233 mmol) of 1-benzyloxy-4-(1-hydroxy-2,2,2-trifluoroethyl)benzene were hydrogenated in the presence of 5.2 g of palladium (10% on carbon) in 500 ml of glacial acetic acid. The catalyst was filtered off and the mixture was concentrated. This gave 44.1 g (99% of theory) of the product as a colourless oil.

reactant | hydrogen | [H][H] | H2
reactant | 1-benzyloxy-4-(1-hydroxy-2,2,2-trifluoroethyl)benzene | 233 mmol, 65.7 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(F)(F)F)O | C15H13F3O2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
catalyst | palladium | 5.2 g | [Pd] | Pd
product | 4-(1-hydroxy-2,2,2-trifluoroethyl)phenol | OC(C(F)(F)F)C1=CC=C(C=C1)O | C8H7F3O2
